US06011046
4-[5-(2,3-dihydro-5-hydroxy-6,7-dimethoxy-2,4-dimethylbenzofuran-2-yl)pentanoyl]morpholine
A solution (25 ml) of 5-(2,3-dihydro-5-hydroxy-6,7-dimethoxy-2,4-dimethylbenzofuran-2-yl)valeric acid (2.0 g), morpholine (0.81 ml) and 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride (1.4 g) in N,N-dimethylformamide was stirred under an atmosphere of argon at room temperature for 2 hours. The reaction mixture was made acidic by adding 1N hydrochloric acid to the mixture, and extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (ethyl acetate) to obtain the title compound (2.1 g, 85%) as an oil.

reactant | 5-(2,3-dihydro-5-hydroxy-6,7-dimethoxy-2,4-dimethylbenzofuran-2-yl)valeric acid | 25 ml, 2.0 g | OC=1C(=C(C2=C(CC(O2)(C)CCCCC(=O)O)C1C)OC)OC | C17H24O6
reactant | morpholine | 0.81 ml | N1CCOCC1 | C4H9NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 1.4 g | Cl.C(C)N=C=NCCCN(C)C
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-[5-(2,3-dihydro-5-hydroxy-6,7-dimethoxy-2,4-dimethylbenzofuran-2-yl)pentanoyl]morpholine | 2.1 g, 85% | OC=1C(=C(C2=C(CC(O2)(C)CCCCC(=O)N2CCOCC2)C1C)OC)OC | C21H31NO6
